US08350275B2
Coating Solutions with Benzotriazole UV Absorbers
A coating solution was prepared containing 7 grams (g) of Elvacite 2041 PMMA, 79 g of 1-methoxy-2-propanol, 14 g of diacetone alcohol, 0.85 g of Tinuvin 384, 0.43 g of Tinuvin 328, 0.22 g of Cyasorb 5411, and 2 drops of BYK 331 surfactant. Thus, the solution contains 7% PMMA by total weight and 10% Tinuvin 384, 5% Tinuvin 328, and 2.5% Cyasorb 5411 based on solids. This solution was applied by flow coating onto 7 mil (177.8 μm) polycarbonate films 10 inches (25.4 cm) wide and 15 inches (38.1 cm) long, the solvent was flashed at 50° C. for 10 minutes, and the coated film was baked for 1 hour at 100° C. The top 5 inches (12.7 cm) of the films was discarded.

reactant | PMMA | CC(=C)C(=O)OC | C5H8O2
reactant | 1-methoxy-2-propanol | 79 g | COCC(C)O | C4H10O2
reactant | diacetone alcohol | 14 g | CC(CC(C)(O)C)=O | C6H12O2
reactant | Tinuvin 384 | 0.85 g | CCCCCCCCOC(=O)CCC1=CC(=C(C(=C1)N2N=C3C=CC=CC3=N2)O)C(C)(C)C | C27H37N3O3
reactant | Tinuvin 328 | 0.43 g | CCC(C)(C)C1=CC(=C(C(=C1)N2N=C3C=CC=CC3=N2)O)C(C)(C)CC | C22H29N3O
reactant | Cyasorb 5411 | 0.22 g | CC(C)(C)CC(C)(C)C1=CC(=C(C=C1)O)N2N=C3C=CC=CC3=N2 | C20H25N3O
product | Benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
